US07767796B2
Step (a): 2-(6-Chloro-hexyloxy)tetrahydropyran
6-Chlorohexanol (6.85 g, 10 mmol) and p-toluenesulphonic acid (500 mg), were dissolved in dry ether (75 ml) and cooled to 0-5° C. in an ice bath. Dihydropyran (4.3 g, 10 mmol) in dry ether (25 ml) was added dropwise with constant stirring over a 30 minute period. After complete addition, the cooling bath was removed and stirring continued for 16 hours. The solution was extracted with water (50 ml×2), dried (MgSO4), filtered and the solvent evaporated under reduced pressure to leave a pale yellow oil. This oil was shown by 13C NMR spectroscopy to be sufficiently pure to be used without purification in the subsequent reactions. Yield 10.1 g (91%).

reactant | 6-Chlorohexanol | 10 mmol, 6.85 g | ClCCCCCCO | C6H13ClO
reactant | p-toluenesulphonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Dihydropyran | 10 mmol, 4.3 g | O1CCCC=C1 | C5H8O
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 2-(6-Chloro-hexyloxy)tetrahydropyran | ClCCCCCCOC1OCCCC1 | C11H21ClO2
